US03971819
C. 4-(2-methyl-6-pyridylamino)-3-nitro-5-sulphamyl-benzoic acid
Ethyl-4-(2-methyl-6-pyridylamino)-3-nitro-5-sulphamyl-benzoate (2 g) was dissolved in 1N sodium hydroxide (30 ml) and heated on a steam bath for 1 hour. After cooling, water (50 ml) was added, and the pH of the reaction mixture was adjusted to 4.5 by addition of 1N hydrochloric acid. The precipitated 4-(2-methyl-6-pyridylamino)-3-nitro-5-sulphamyl-benzoic acid was collected by suction, washed with water, and dried. The compound had a melting point of 305°C (decomp.).

reactant | Ethyl-4-(2-methyl-6-pyridylamino)-3-nitro-5-sulphamyl-benzoate | 2 g | C(C)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)NC1=CC=CC(=N1)C)[N+](=O)[O-])=O | C15H16N4O6S
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
product | 4-(2-methyl-6-pyridylamino)-3-nitro-5-sulphamyl-benzoic acid | CC1=NC(=CC=C1)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C13H12N4O6S
